US08211900B2
Stage 1—Synthesis of Ethyl (2,6-dimethoxy-4-nitrophenoxy)acetate
18-Crown-6 (1.069 g, 4.05 mmol), 2,5-dimethoxy-3-hydroxynitrobenzene (0.961 g, 4.05 mmol) and ethyl bromoacetate (0.449 ml, 4.05 mmol) were stirred at RT for 18 h. The reaction mixture was then concentrated in vacuo and the residue was purified by column chromatography eluting with 10-15% EtOAc in Isohexanes to afford the title compound (881 mg, 76%). m/z 286 [M+H]+.

reactant | 18-Crown-6 | 4.05 mmol, 1.069 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | 2,5-dimethoxy-3-hydroxynitrobenzene | 4.05 mmol, 0.961 g | COC1=C(C=C(C=C1O)OC)[N+](=O)[O-] | C8H9NO5
reactant | ethyl bromoacetate | 4.05 mmol, 0.449 ml | BrCC(=O)OCC | C4H7BrO2
product | Ethyl (2,6-dimethoxy-4-nitrophenoxy)acetate | 881 mg, 76% | COC1=C(OCC(=O)OCC)C(=CC(=C1)[N+](=O)[O-])OC | C12H15NO7
